US07498337B2
ethyl 2-methyl-5-phenyl-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carboxylate
A suspension of ethyl 5-bromo-2-methyl-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carboxylate (2.26 g), phenylboronic acid (1.54 g), dichloro[bis(triphenylphosphine)]palladium (211 mg) and sodium carbonate (1.91 g) in 1,2-dimethoxyethane (20 mL)-water (10 mL) was stirred at 80° C. for 40 min. After cooling, the reaction mixture was filtered through celite, and celite was washed with ethyl acetate. The organic layer was separated from the filtrate, washed with water and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=9:1→6:4) to give the title compound as a colorless oil (yield 2.39 g, about 100%).

reactant | ethyl 5-bromo-2-methyl-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carboxylate | 2.26 g | BrC1=CC(=C(N1S(=O)(=O)C=1C=NC=CC1)C)C(=O)OCC | C13H13BrN2O4S
reactant | phenylboronic acid | 1.54 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 1.91 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | 10 mL | O | H2O
solvent | 1,2-dimethoxyethane | 20 mL | COCCOC | C4H10O2
product | ethyl 2-methyl-5-phenyl-1-(pyridin-3-ylsulfonyl)-1H-pyrrole-3-carboxylate | yield 2.39 g, about 100% | CC=1N(C(=CC1C(=O)OCC)C1=CC=CC=C1)S(=O)(=O)C=1C=NC=CC1 | C19H18N2O4S
